US07977340B2
Step-2. Dimethyl-(6-tributylstannanyl-pyridin-2-yl)-amine
To a solution of 2-dimethylaminoethanol (0.65 mL, 9.60 mmol) in hexane (10.0 mL, HPLC grade) cooled at −5° C. was added drop wise n-BuLi (1.60 M, 11.38 mL, 18.20 mmol) under nitrogen atmosphere. After 30 min at 0° C., dimethyl-pyridin-2-yl-amine (0.40 g, 3.20 mmol) in hexane (5.0 mL) was added drop wise. After stirring the reaction mixture for 1 h at 0-5° C., the reaction medium was cooled to −78° C. followed by drop wise addition of tributyl tin chloride (1.55 mL, 8.0 mmol). The resulting reaction mixture was stirred at −78° C. for 30 min and then allowed to stir at 0-5° C. for 1 h. The reaction mixture was then allowed to stir at room temperature for 16 h. After the completion of reaction (TLC monitoring), the reaction mass was cooled to 0° C. and water was added slowly. The aqueous phase was extracted with diethyl ether (3×20 mL). The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness. The crude residue was carried foreard to the next step without further purification. MS: 413.22.

reactant | 2-dimethylaminoethanol | 9.60 mmol, 0.65 mL | CN(CCO)C | C4H11NO
reactant | n-BuLi | 18.20 mmol, 1.60 M, 11.38 mL | [Li]CCCC
reactant | dimethyl-pyridin-2-yl-amine | 3.20 mmol, 0.40 g | CN(C1=NC=CC=C1)C | C7H10N2
reactant | tributyl tin chloride | 8.0 mmol, 1.55 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | hexane | 10.0 mL | CCCCCC | C6H14
solvent | hexane | 5.0 mL | CCCCCC | C6H14
solvent | water | O | H2O
product | Dimethyl-(6-tributylstannanyl-pyridin-2-yl)-amine | CN(C1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C7H9N2.3C4H9.Sn/c1-9(2)7-5-3-4-6-8-7;3*1-3-4-2;/h3-5H,1-2H3;3*1,3-4H2,2H3;
